US04968823
A four-necked flask equipped with an overflow nozzle on the side wall was provided with a stirrer, a thermometer and a reflux condenser. To the flask were continously fed 3,850 g of a 20% aqueous solution of sodium hydroxide and 1,990 g of tri-n-butyltin chloride containing 4.8% di-n-butyltin dichloride, with stirring and heating at 50° C., to perform hydrolysis for 30 minutes. The resulting reaction mixture overflowed was allowed to stand. As a result, the contents split into three distinct phases, i.e., an upper bis(tri-n-butyltin) oxide phase, an intermediate aqueous phase containing a salt, and a lower di-n-butyltin oxide phase containing 48% bis(tri-n-butyltin) oxide. The di-n-butyltin oxide had an average particle diameter of 30 μm. The specific gravities of the upper, intermediate and lower phases were 1.1, 1.2 and 1.3, respectively. The three phases were separated from one another. The upper phase was dehydrated under reduced pressure, and then a small amount of a salt which had separated out was removed by filtration, thereby obtaining 1,629 g of bis(tri-n-butyltin) oxide. Hydrochloric acid titration revealed that its purity was 98.5%, and its theoretical yield based on the starting material was 89.4%.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | tri-n-butyltin chloride | 1,990 g | C(CCC)[Sn](CCCC)(CCCC)Cl
product | bis(tri-n-butyltin) oxide | 1,629 g | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC | InChI=1S/6C4H9.O.2Sn/c6*1-3-4-2;;;/h6*1,3-4H2,2H3;;;
